US06489328B2
5-Chloro-6-nitroquinazolin-4-one, from Example 3 (0.26 g, 1.15 mmol) was suspended in MeOH (3 mL) at −20° C. Methylamine gas was passed into the mixture for a few minutes, resulting in a clear solution. The solution was stirred at room temperature for 5 h and evaporated to give 5-methylamino-6-nitroquinazolin-4-one in quantitative yield. The above amine (350 mg, 1.6 mmol) was hydrogenated over platinum oxide (30 mg) in MeOH (200 mL) at 60 psi for 4 h. The mixture was filtered through diatomaceous earth and the solvent evaporated, to give 6-amino-5-methylaminoquinazolin-4-one, which was immediately suspended in EtOAc (20 mL) and THF (10 mL). A solution of 2,6-dichlorophenylisothiocyanate (340 mg, 1.67 mmol) in EtOAc (5 mL) was added, and the mixture stirred for 16 h. The reaction mixture was concentrated to half the volume, filtered, and the solid washed with EtOAc to yield the thiourea (400 mg, 64% over 2 steps.)

reactant | 5-Chloro-6-nitroquinazolin-4-one | ClC1=C2C(NC=NC2=CC=C1[N+](=O)[O-])=O | C8H4ClN3O3
reactant | Methylamine | CN | CH5N
solvent | MeOH | 3 mL | CO | CH4O
product | 5-methylamino-6-nitroquinazolin-4-one | quantitative yield | CNC1=C2C(NC=NC2=CC=C1[N+](=O)[O-])=O | C9H8N4O3
